US03931235
Ice (50g.) was added slowly with stirring to 175 g. of concentrated sulfuric acid, keeping the temperature below 35°C. by means of an ice-salt bath. The temperature of the diluted acid was adjusted to 5°C., and 38.6 g. (0.460 mole) of tert.-butyl alcohol was slowly added with stirring, keeping the temperature between 5° and 10°C. 4-Hydroxy-3-mercapto-6-methyl-2-pyrone (36.4 g., 0.230 mole) was then added with vigorous stirring over a period of about 15 minutes, keeping the temperature of the reaction mixture at 5°C. The cooling bath was then removed from the reaction vessel, and stirring was continued for one hour, 20 minutes, while the temperature of the reaction mixture rose to 24°C. The mixture was then poured into ice water, and the gummy precipitate crystallized to a gray solid (weight 42.4 g. (86 percent), m.p. 108.5°-112.5°C.) upon standing at room temperature overnight. The crude product was suspended in 200 ml. of water and then dissolved by the addition of 100 ml. of 10% sodium hydroxide solution. The solution was stirred at room temperature for one hour with decolorizing charcoal, filtered and acidified with with dilute hydrochloric acid. The cream-colored solid precipitate (37.7 g., m.p. 116.5°C.) was collected on a filter, washed with water and dried. Recrystallization from 2-propanol gave the pure 3-tert.-butylthio-4-hydroxy-6-methyl-2-pyrone as white crystals, m.p. 117°-117.5°C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | tert.-butyl alcohol | 0.460 mole | C(C)(C)(C)O | C4H10O
reactant | 4-Hydroxy-3-mercapto-6-methyl-2-pyrone | 0.230 mole, 36.4 g | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
product | 3-tert.-butylthio-4-hydroxy-6-methyl-2-pyrone | C(C)(C)(C)SC=1C(OC(=CC1O)C)=O | C10H14O3S
